US04499102
(4R,4'R)-3,3'-(Octanedioyl)bis[2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid] (compound 40)
To a stirred solution of (4R)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid (6.8 g) in 1M potassium carbonate (45 ml), octanedioyl dichloride (3.2 g) was added dropwise under ice-cooling. After the addition, the reaction mixture was stirred for 1 hour at the same temperature and for additional 1 hour at room temperature. The solution was acidified with dilute hydrochloric acid, extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residual oil was purified by silica gel column chromatography to give 7.6 g (86%) of the titled compound: mp 93°-97° C. (dec.); [α]D27 +123.6° (c=0.5, methanol). IR (nujol, cm-1): 1720 (COOH), 1620 (CON), 1600 (aromatic), 1230, 1090, 855, 765. NMR (CD3OD) δ: 0.7-1.7 (8H, m, --CH2 --CH2)4CH2 --), 1.8-2.4 (4H, m, --CH2 --CH2)4CH2), 3.25 (4H, d, J=7.5 Hz, C5 --H), 4.81 (2H, t, J=7.5 Hz, C4 --H), 6.35 (2H, s, C2 --H), 6.7-8.0 (8H, m, arom. H). TLC: Rf value* 0.34.

reactant | (4R)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 6.8 g | OC1=C(C=CC=C1)C1SC[C@H](N1)C(=O)O | C10H11NO3S
reactant | octanedioyl dichloride | 3.2 g | C(CCCCCCC(=O)Cl)(=O)Cl | C8H12Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | potassium carbonate | 1M, 45 ml | C([O-])([O-])=O.[K+].[K+]
product | (4R,4'R)-3,3'-(Octanedioyl)bis[2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid] | 7.6 g, 86% | C(CCCCCCC(=O)N1C(SC[C@H]1C(=O)O)C1=C(C=CC=C1)O)(=O)N1C(SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C28H32N2O8S2
